US08629137B2
3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1H-quinolin-2-one
60 mg (0.26 mmol) 3-piperidin-4-yl-1H-quinolin-2-one, 80 mg (0.26 mmol) 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.15 mL (0.86 mmol) DIPEA were combined in 3 mL DMF and stirred overnight at RT. The reaction mixture was added to water and the precipitate formed was suction filtered, washed with MeOH and dried.

reactant | 3-piperidin-4-yl-1H-quinolin-2-one | 0.26 mmol, 60 mg | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
reactant | 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.26 mmol, 80 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
reactant | DIPEA | 0.86 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1H-quinolin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=N2)N2CCC(CC2)C=2C(NC1=CC=CC=C1C2)=O)C)=O | C28H25N5O4
